US07521462B2
Sodium triacetoxyborohydride (1.29 g, 6.09 mmol) is added to a stirred solution of 4-isobutylamino-piperidine-1-carboxylic acid tert-butyl ester (1.09 g, 4.29 mmol), quinoline-3-carboxaldehyde (0.68 g, 4.3 mmol), acetic acid (0.25 ml, 4.37 mmol), and 1,2-dichloroethane (15 ml). The reaction is stirred for 18 h at room temperature under nitrogen. The reaction is poured into 2N NaOH (100 ml) and extracted with ethyl acetate (100 ml×3). The ethyl acetate is dried over sodium sulfate and then the sodium sulfate is filtered off. The crude product is concentrated on a rotary evaporator and purified by flash chromatography on silica gel eluting with 15% acetone/hexanes to yield (1.02 g, 60%) of 4-{isobutyl-[(quinolin-3-yl)methyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester: mass spectrum (ion spray): m/z=398.2 (M+1); 1H NMR (CDCl3): δ=8.93 (1H, d), 8.09 (1H, d), 8.02 (1H, s), 7.79 (1H, d), 7.70-7.66 (1H, m), 7.55-7.51 (1H, m), 4.16 (2H, br s), 3.79 (2H, s), 2.63-2.57 (3H, m), 2.27 (2H, d), 1.77-1.65 (3H, m), 1.52-1.48 (2H, m), 1.44 (9H, s), 0.85 (6H, d).

reactant | Sodium triacetoxyborohydride | 6.09 mmol, 1.29 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-isobutylamino-piperidine-1-carboxylic acid tert-butyl ester | 4.29 mmol, 1.09 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC(C)C | C14H28N2O2
reactant | quinoline-3-carboxaldehyde | 4.3 mmol, 0.68 g | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | acetic acid | 4.37 mmol, 0.25 ml | C(C)(=O)O | C2H4O2
reactant | NaOH | 2N, 100 ml | [OH-].[Na+]
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | 4-{isobutyl-[(quinolin-3-yl)methyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 1.02 g, 60% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC=1C=NC2=CC=CC=C2C1)CC(C)C | C24H35N3O2
